US04994461
D. 3-Methyl 5-(2-bromoethyl) (±)-1-ethoxymethyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate
10.65 g of a 80% suspension of sodium hydride in liquid paraffin are suspended in 300 ml of anhydrous tetrahydrofuran. A solution of 120 g of 3-methyl 5-(2-bromoethyl) (±)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate and 28.4 g of chloromethyl ethyl ether in 300 ml of anhydrous tetrahydrofuran is slowly added dropwise in the course of 4 h at -5° to -7° C., while stirring. After the mixture has been stirred for a further hour at 0° C., 600 ml of toluene and 210 ml of water are added in succession. The phases are separated, and the organic phase is washed with water, dried overnight and evaporated in vacuo. The residue is dissolved in 390 ml of warm ethanol and the stirred solution is then cooled. The product crystallises out during this procedure. It is cooled to 0° C., filtered off under suction, washed with ice-cold ethanol and dried. 98.5 g of the title compound of m.p. 72.5°-74° C. are obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-methyl 5-(2-bromoethyl) (±)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 120 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCBr)C | C18H19BrN2O6
reactant | chloromethyl ethyl ether | 28.4 g | C(C)OCCl | C3H7ClO
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 210 ml | O | H2O
product | 3-Methyl 5-(2-bromoethyl) (±)-1-ethoxymethyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 98.5 g | C(C)OCN1C(=C(C(C(=C1C)C(=O)OCCBr)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C21H25BrN2O7
